US09326987B2
4-(5-Cyclohexyl-1,3,4-oxadiazol-2-yl)-6-(1H-indol-4-yl)-1H-indazole
6-(1H-Indol-4-yl)-1-[(4-methylphenyl)sulfonyl]-4-(1H-tetrazol-5-yl)-1H-indazole-6-(1H-indol-4-yl)-1-(phenylsulfonyl)-4-(1H-tetrazol-5-yl)-1H-indazole (1:1) (100 mg, 0.084 mmol) and cyclohexanecarbonyl chloride (0.224 ml, 1.672 mmol) in chloroform (4 ml), were heated under microwave irradiation at 100° C. for 30 mins, followed by 100° C. for 30 mins, followed by 100° C. for 1 h. Additional cyclohexanecarbonyl chloride (0.114 ml, 0.849 mmol) was added and the reaction heated under microwave irradiation at 100° C. for a further 1 h. The reaction mixture was treated with isopropanol (2 ml), the solvent reduced to 2 ml by blowing down and absorbed onto Florisil. The Florisil was placed on top of a silica cartridge (10 g) and eluted with 0-100% ethyl acetate/cyclohexane. Appropriate fractions combined and concentrated to give a beige solid, 15 mg. The solid was treated with isopropanol (0.5 ml) and 2M aqueous sodium hydroxide (0.498 ml) and stirred at 20° C. for 20 h. The mixture was then treated with 2M aqueous hydrochloric acid (1 ml), blown to dryness and slurried in isopropanol (2 ml) and dichloromethane (1 ml) with sonication. The mixture was absorbed onto Florisil, loaded onto a silica cartridge (10 g) and eluted with 0-100% ethyl acetate/cyclohexane. Appropriate fractions were combined and evaporated to give the title compound as a colourless film (3 mg).

reactant | 6-(1H-Indol-4-yl)-1-[(4-methylphenyl)sulfonyl]-4-(1H-tetrazol-5-yl)-1H-indazole 6-(1H-indol-4-yl)-1-(phenylsulfonyl)-4-(1H-tetrazol-5-yl)-1H-indazole | 0.084 mmol, 100 mg | N1C=CC2=C(C=CC=C12)C1=CC(=C2C=NN(C2=C1)S(=O)(=O)C1=CC=C(C=C1)C)C1=NN=NN1.N1C=CC2=C(C=CC=C12)C1=CC(=C2C=NN(C2=C1)S(=O)(=O)C1=CC=CC=C1)C1=NN=NN1
reactant | cyclohexanecarbonyl chloride | 1.672 mmol, 0.224 ml | C1(CCCCC1)C(=O)Cl | C7H11ClO
reactant | cyclohexanecarbonyl chloride | 0.849 mmol, 0.114 ml | C1(CCCCC1)C(=O)Cl | C7H11ClO
reactant | sodium hydroxide | 2M, 0.498 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2M, 1 ml | Cl | ClH
solvent | chloroform | 4 ml | C(Cl)(Cl)Cl | CHCl3
solvent | isopropanol | 2 ml | C(C)(C)O | C3H8O
solvent | isopropanol | 0.5 ml | C(C)(C)O | C3H8O
solvent | isopropanol | 2 ml | C(C)(C)O | C3H8O
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 4-(5-Cyclohexyl-1,3,4-oxadiazol-2-yl)-6-(1H-indol-4-yl)-1H-indazole | C1(CCCCC1)C1=NN=C(O1)C1=C2C=NNC2=CC(=C1)C1=C2C=CNC2=CC=C1 | C23H21N5O
